US09388165B2
Step (1): Preparation of 4-methyl-3-nitro-N-(3-(trifluoromethyl)phenyl)benzamide
4-Methyl-3-nitrobenzoic acid (14.6 g, 81.0 mmol) was stirred in a solvent of dimethyl formamide (40 mL). The reaction solution was added with HATU (47.2 g, 124 mmol), DIPEA (32.5 mL, 186 mmol) and 3-(trifluoromethyl)aniline (7.72 mL, 62.1 mmol), followed by stirring for about 12 hours at room temperature. The reaction mixture was diluted with ethyl acetate, and washed with a saturated aqueous sodium bicarbonate solution and saline. The organic layer thus obtained was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The concentrated solid was added with ethyl acetate, and stirred for 2 hours or more. The resulting solid was filtered under reduced pressure, and washed with ethyl acetate and methanol. The filtered solid was dried with warm wind in an oven (40° C.) for 3 hours or more to obtain the title compound (14.9 g, 74%).

reactant | 4-Methyl-3-nitrobenzoic acid | 81.0 mmol, 14.6 g | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | HATU | 124 mmol, 47.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 186 mmol, 32.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(trifluoromethyl)aniline | 62.1 mmol, 7.72 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-methyl-3-nitro-N-(3-(trifluoromethyl)phenyl)benzamide | 14.9 g, 74% | CC1=C(C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C1)[N+](=O)[O-] | C15H11F3N2O3
